US07935835B2
(29a) Ethyl 3-[1-(2-ethoxycarbonylethyl)cyclopropyl]propionate
24.5 ml (24.5 mmol) of 1.0 M diethyl zinc/hexane solution was added to 30 ml of dichloromethane, and then a solution of 1.89 ml (24.5 mmol) of trifluoroacetic acid in 10 ml of dichloromethane was added with stirring under ice-cooling. The reaction solution was stirred for 20 minutes at the same temperature, then a solution of 1.97 ml (24.5 mmol) of diiodomethane in 10 ml of dichloromethane was added and stirred for 20 minutes, and 1.40 g (6.13 mmol) of a solution of diethyl 4-methyleneheptanedicarboxylate (compound described in J.A.C.S. 107, 13, 3981-3997 (1985)) in 10 ml of dichloromethane was further added. After the reaction solution was stirred for 6 hours at room temperature, ice water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was subjected to silica gel column chromatography (solvent; hexane:ethyl acetate=5:1) to give 1.48 g of the title compound as a brown oil (yield: 99%).

reactant | diethyl zinc hexane | 24.5 mmol, 1.0 M, 24.5 ml | C(C)[Zn]CC.CCCCCC
reactant | trifluoroacetic acid | 24.5 mmol, 1.89 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diiodomethane | 24.5 mmol, 1.97 ml | ICI | CH2I2
reactant | diethyl 4-methyleneheptanedicarboxylate | C=C(CCC(C(=O)OCC)C(=O)OCC)CCC | C14H24O4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Ethyl 3-[1-(2-ethoxycarbonylethyl)cyclopropyl]propionate | 1.48 g, yield: 99% | C(C)OC(=O)CCC1(CC1)CCC(=O)OCC | C13H22O4
